US06384030B1
A mixture of 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one (0.05 mol), ethyl 2-bromobutanoate (0.055 mol) and Na2CO3 (0.15 mol) in 1-methyl-2-pyrrolidinone (250 ml) was stirred at 75° C. overnight. Ethyl 2-bromobutanoate (0.015 mol) was added again. The mixture was stirred at 75° C. for 6 hours, at room temperature for 48 hours, poured out into H2O and stirred for 30 minutes. The precipitate was filtered off and dissolved in CH2Cl2. The solution was filtered. The filtrate was dried, filtered and the solvent was evaporated. The residue was triturated in DIPE and ethyl acetate, filtered off and dried, yielding 10 g (43%) of (±)-ethyl α-ethyl-4,5-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5-oxo-1H-1,2,4-triazol-1-acetate (interm. 9).

reactant | 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-3H-1,2,4-triazol-3-one | 0.05 mol | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O2
reactant | ethyl 2-bromobutanoate | 0.055 mol | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | Na2CO3 | 0.15 mol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Ethyl 2-bromobutanoate | 0.015 mol | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | H2O | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
product | (±)-ethyl α-ethyl-4,5-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-5-oxo-1H-1,2,4-triazol-1-acetate | 10 g, 43% | C(C)C(C(=O)OCC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC | C25H31N5O4
